US06313122B1
Preparation of N1-(2-Aminothiazol-5-ylcarbonyl)-N2-(4-tert-butylbenzoyl)-1,2-benzenediamine
Using the procedure described in Example 102, Part A, 2-aminothiazole-5-carboxylic acid (1.0 mmol) and N1-(4-tert-butylbenzoyl)-1,2-benzenediamine (1.5 mmol) yielded 50 mg (13%) of the title compound.

reactant | 2-aminothiazole-5-carboxylic acid | 1.0 mmol | NC=1SC(=CN1)C(=O)O | C4H4N2O2S
reactant | N1-(4-tert-butylbenzoyl)-1,2-benzenediamine | 1.5 mmol | C(C)(C)(C)C1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C17H20N2O
product | N1-(2-Aminothiazol-5-ylcarbonyl)-N2-(4-tert-butylbenzoyl)-1,2-benzenediamine | 50 mg, 13% | NC=1SC(=CN1)C(=O)NC=1C(=CC=CC1)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C21H22N4O2S
